US07642264B2
2-(2-Chloro-pyridin-4-yl)-4-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-6-trifluoromethyl-pyrimidine (example A.39) (0.85 g, 2.0 mmol) and commercially available 2-chloro-pyridine-4-boronic acid (0.35 g, 2.22 mmol) according to the general procedure IVb. Obtained as an off-white solid (0.71 g, 70%). MS (EI) 501.1 [(M)+]; mp 138° C.

reactant | 2-chloro-4-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-6-trifluoromethyl-pyrimidine | 2.0 mmol, 0.85 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)OCC(F)(F)F)C(F)(F)F | C14H6ClF9N2O
reactant | 2-chloro-pyridine-4-boronic acid | 2.22 mmol, 0.35 g | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
product | 2-(2-Chloro-pyridin-4-yl)-4-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-6-trifluoromethyl-pyrimidine | ClC1=NC=CC(=C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)OCC(F)(F)F)C(F)(F)F | C19H9ClF9N3O
